US06875765B2
Lithium aluminum hydride solution (0.9 mL of a 1.0 M solution in ether) was dissolved in 15 mL diethyl ether and cooled to 65° C. 3-[4-Acetylamino-2-(2-quinolin-5-yl-ethoxy)-benzenesulfonylamino]-N-methoxy-N-methyl-succinamic acid tert-butyl ester (180 mg, 0.3 mmol) was dissolved in 5 mL THF and added to the LiAlH4 solution via canula. The reaction was stirred for 10 minutes at 65° C. and then warmed to −44° C. for 15 minutes. The reaction was cooled to −65° C. and saturated Rochelle's salt was added. The reaction was warmed to room temperature, and then extracted with ethyl acetate. The extract was dried with sodium sulfate, and then concentrated in vacuo. The crude product was chromatographed with 5% methanol in ethyl acetate to yield 3-[4-acetylamino-2-(2-quinolin-5-yl-ethoxy)-benzenesulfonylamino]-4-oxo-butyric acid tert-butyl ester 130 mg (80%) of a light brown solid.

reactant | Lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-[4-Acetylamino-2-(2-quinolin-5-yl-ethoxy)-benzenesulfonylamino]-N-methoxy-N-methyl-succinamic acid tert-butyl ester | 0.3 mmol, 180 mg | C(C)(C)(C)OC(CC(C(=O)N(C)OC)NS(=O)(=O)C1=C(C=C(C=C1)NC(C)=O)OCCC1=C2C=CC=NC2=CC=C1)=O | C29H36N4O8S
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Rochelle's salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | ether | CCOCC | C4H10O
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-[4-acetylamino-2-(2-quinolin-5-yl-ethoxy)-benzenesulfonylamino]-4-oxo-butyric acid tert-butyl ester | 130 mg, 80% | C(C)(C)(C)OC(CC(C=O)NS(=O)(=O)C1=C(C=C(C=C1)NC(C)=O)OCCC1=C2C=CC=NC2=CC=C1)=O | C27H31N3O7S
